US03992535
4-Hydroxy-2-methyl-N-(6-methyl-2-pyridyl)-2H-naphtho[2,1-e]1,2-thiazine-3-carboxamide-1,1-dioxide was prepared analogous to Example 10 from 4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methylester-1,1-dioxide and 2-amino-6-methyl-pyridine. Yield: 51% of theory; m.p.221°-223° C (decomp.; from ethyl acetate).

reactant | 4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methylester-1,1-dioxide | COC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)C | C15H13NO5S
reactant | 2-amino-6-methyl-pyridine | NC1=NC(=CC=C1)C | C6H8N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Hydroxy-2-methyl-N-(6-methyl-2-pyridyl)-2H-naphtho[2,1-e]1,2-thiazine-3-carboxamide-1,1-dioxide | Yield: 51% | OC1=C(N(S(C2=C1C=CC1=CC=CC=C12)(=O)=O)C)C(=O)NC1=NC(=CC=C1)C | C20H17N3O4S
